US06248885B1
tert-Butylisopropylethylamine (2e)
A mixture of tert-butylisopropylamine (11.5 g, 0.1 mol) and diethyl sulfate (15.42 g, 0.1 mol) was refluxed for 2 h. Aqueous 8 M potassium hydroxide (20 ml, 0.16 mol) was added and the organic layer was separated. The aqueous layer was extracted with n-pentane (20 ml). The organic solutions were combined, dried over magnesium sulfate, and the product was isolated by distillation: 7.16 g, (50%), bp 140-142° C.; 1H NMR (CDCl3) δ0.99 (m, J=6.2 Hz, 9H, CH3), 1.10 (s, 9H, CH3), 2.55 (q, J=6.2 Hz, 2H, CH2, 3.35 (septet, J=6.2, 1H, CH).

reactant | tert-butylisopropylamine | 0.1 mol, 11.5 g | C(C)(C)(C)NC(C)C | C7H17N
reactant | diethyl sulfate | 0.1 mol, 15.42 g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | potassium hydroxide | 0.16 mol, 8 M, 20 ml | [OH-].[K+]
product | tert-Butylisopropylethylamine | C(C)(C)(C)N(CC)C(C)C | C9H21N
